US05719166
a. 1-((9RS,10RS)-2-Chloro-9,10-dihydro-9,10-methanoanthracen-9-ylmethyl)-4-formylpiperidine
A solution of oxalyl chloride (4.51 g, 35.6 mmol) in dichloromethane (100 mL) was cooled to ←60° C. and was treated dropwise with dimethylsulfoxide (2.92 g, 37.4 mmol). The resulting solution was stirred at -65° C. for 15 min, then was treated dropwise with a solution of 1-((9RS,10RS)-2-chloro-9,10-dihydro-9,10-methanoanthracen-9-ylmethyl)-4-piperidinemethanol (8.40 g, 23.7 mmol) in dichloromethane (30 mL). The reaction mixture was stirred at -65° C. for 1 h, then was treated with triethylamine (7.20 g, 71.2 mmol) and allowed to warm to room temperature. The mixture was then poured into 10% aqueous sodium hydroxide (100 mL) and was extracted with chloroform (3×150 mL). The organic extracts were washed sequentially with 1N aqueous sodium hydroxide (100 mL) and brine (100 mL), combined, dried (K2CO3), filtered and evaporated to leave the title compound as an amber foam (8.12 g, 23.1 mmol, 97%). 1H NMR (d6-DMSO): 9.57 (s, 1H, CHO), 7.25 (m, 4H), 6.94 (m, 3H), 4.33 (s, 1H, H--C(10)), 3.34 (m, 2H, CH2N), 2.87 (m, 2H, eq-H--C(2')), 2.50 (s, 2H, H--C(11)), 2.29 (m, 3H, ax-H--C(2'), H--C(4')), 1.75 (m, 2H, eq-H--C(3')), 1.46 (m, 2H, ax-H--C(3')).

reactant | oxalyl chloride | 35.6 mmol, 4.51 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 37.4 mmol, 2.92 g | CS(=O)C | C2H6OS
reactant | 1-((9RS,10RS)-2-chloro-9,10-dihydro-9,10-methanoanthracen-9-ylmethyl)-4-piperidinemethanol | 23.7 mmol, 8.40 g | ClC1=CC=2C3(C4=CC=CC=C4C(C2C=C1)C3)CN3CCC(CC3)CO | C22H24ClNO
reactant | triethylamine | 71.2 mmol, 7.20 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 100 mL | [OH-].[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1-((9RS,10RS)-2-Chloro-9,10-dihydro-9,10-methanoanthracen-9-ylmethyl)-4-formylpiperidine | 23.1 mmol, 8.12 g, 97% | ClC1=CC=2C3(C4=CC=CC=C4C(C2C=C1)C3)CN3CCC(CC3)C=O | C22H22ClNO
